US07348340B2
L1. 2-(3-Chlorophenyl)-4,6-quinolinediamine
The BOC protecting group was removed by the following procedure. Into a 200 mL round bottom flask equipped with a magnetic stir bar and nitrogen inlet was placed 1.0 g (2.71 mmoles, 1 equiv) of [4-amino-2-(3-chlorophenyl)-quinolin-6-yl]-carbamic acid tert-butyl ester and 60 mL of a 1:2 mixture of trifluoroacetic acid and methylene chloride. The mixture was stirred at room temperature for 3 hrs., then concentrated. The residue was made basic with dilute NaOH solution then extracted with ethyl acetate. The organic layer was washed with NaHO solution, dried over Na2SO4, filtered and concentrated. The residue was crystallized from methylene chloride and hexanes to give 700 mg (95%) of the title compound.

reactant | [4-amino-2-(3-chlorophenyl)-quinolin-6-yl]-carbamic acid tert-butyl ester | 2.71 mmoles, 1.0 g, 1 equiv | C(C)(C)(C)OC(NC=1C=C2C(=CC(=NC2=CC1)C1=CC(=CC=C1)Cl)N)=O | C20H20ClN3O2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(3-Chlorophenyl)-4,6-quinolinediamine | 700 mg, 95% | ClC=1C=C(C=CC1)C1=NC2=CC=C(C=C2C(=C1)N)N | C15H12ClN3
